US09302991B2
<Step-2>: (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanol
The title compound is prepared in 78% yield (210 mg, a white solid) from methyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate (300 mg, 1.1 mmol, Step-1) and diisobutylalminium hydride (1.0 M in hexane, 2.4 mL, 2.4 mmol) by the similar manner in Step-3 of Amine-4.

reactant | methyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 1.1 mmol, 300 mg | ClC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C9H7ClF3NO3
reactant | hydride | 2.4 mmol, 1.0 M, 2.4 mL | [H-]
product | (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanol | 78% yield | ClC=1C=C(C=NC1OCC(F)(F)F)CO | C8H7ClF3NO2
